US08431575B2
To a solution of 3-butyl-4-(4-cyclohexyloxy-phenyl)-6-(4-fluoro-piperidin-4-ylmethoxy)-pyridazine dihydrochloride (0.058 mmol, 30 mg) in DCM (2 mL) was added formaldehyde solution in water (37%, 1 mL), and stirred for 5 min. Sodium triacetoxyborohydride (0.35 mmol, 75 mg) was added stirred at room temperature for 2 h. Reaction was diluted with DCM (5 mL), DCM layer was separated and washed with saturated NaHCO3 solution, dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified on a SiO2 cartridge with 2% (NH3 in MeOH, 2M) in DCM-6% (NH3 in MeOH, 2M) in DCM gave 3-butyl-4-(4-cyclohexyloxy-phenyl)-6-(4-fluoro-1-methyl-piperidin-4-yl methoxy)-pyridazine, which was converted to the title compound by treating with 4 N HCl in dioxane (0.5 mL) in DCM (2 mL). The volatiles were removed under reduced pressure, salt was washed with anhydrous ether and solid was dried under high vacuum (24 mg). LCMS: m/z 457 [M+1]. 1H NMR (300 MHz, CD3OD): δ 7.86 (1H, s), 7.45 (2H, d), 7.12 (2H, d), 4.68 (2H, d), 4.44-4.50 (1H, m), 3.50-3.62 (2H, m), 3.24-3.39 (2H, m), 3.13 (2H, t), 2.94 (3H, s), 1.74-2.50 (8H, m), 1.20-1.68 (10H, m), 0.82 (3H, t).

reactant | 3-butyl-4-(4-cyclohexyloxy-phenyl)-6-(4-fluoro-piperidin-4-ylmethoxy)-pyridazine dihydrochloride | 0.058 mmol, 30 mg | Cl.Cl.C(CCC)C=1N=NC(=CC1C1=CC=C(C=C1)OC1CCCCC1)OCC1(CCNCC1)F
reactant | formaldehyde | C=O | CH2O
reactant | Sodium triacetoxyborohydride | 0.35 mmol, 75 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | water | 1 mL | O | H2O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-butyl-4-(4-cyclohexyloxy-phenyl)-6-(4-fluoro-1-methyl-piperidin-4-yl methoxy)-pyridazine | C(CCC)C=1N=NC(=CC1C1=CC=C(C=C1)OC1CCCCC1)OCC1(CCN(CC1)C)F | C27H38FN3O2
